US06951879B2
In analogy to example 17.1; Methanesulfonic acid 3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-propyl ester and Dimethylamine were converted to yield Dimethyl-{3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-propyl}-amine as light brown oil, MS: 365 (MH+).

reactant | Methanesulfonic acid 3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-propyl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCOS(=O)(=O)C)(F)F | C18H16F3NO3S2
reactant | Dimethylamine | CNC | C2H7N
product | Dimethyl-{3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-propyl}-amine | CN(CCCC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1)C | C19H19F3N2S
